US03965103
b. 2,4-Dimethyl-4-nitroperhydropyrido[1,2-a] [1,4] diazepine dihydrochloride
Under agitation, a solution of 2.27 g. of 2,4-dimethyl-4-nitroperhydropyrido[1,2-a] [1,4] diazepine in 10 ml. of ethyl acetate is added to 20 ml. of 2N ethereal hydrochloric acid. The residue remaining after concentration is crystallized from chloroform; m.p. 189° C.

reactant | 2,4-dimethyl-4-nitroperhydropyrido[1,2-a] [1,4] diazepine | CN1CC2N(CC(C1)([N+](=O)[O-])C)CCCC2 | C11H21N3O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-Dimethyl-4-nitroperhydropyrido[1,2-a] [1,4] diazepine dihydrochloride | Cl.Cl.CN1CC2N(CC(C1)([N+](=O)[O-])C)CCCC2 | InChI=1S/C11H21N3O2.2ClH/c1-11(14(15)16)8-12(2)7-10-5-3-4-6-13(10)9-11;;/h10H,3-9H2,1-2H3;2*1H
